US07521439B2
Methyl (3α,5β,7α,12α)-7,12-dihydroxy-3-(methanesulfonyloxy)cholan-24-oate
To a solution of cholic acid methyl ester (25 g, 59.2 mmol) in pyridine (75 mL), stirring at 0° C., was added methanesulfonyl chloride (5.04 mL, 65.1 mmol) dropwise over 30 minutes. The reaction was allowed to warm to room temperature and stir for 6 hours. The reaction mixture was poured into a mixture of EtOAc (200 mL), 1 N HCI (200 mL), and ice. The layers were separated, and the organic layer was washed with 1N HCI (2×50 mL), dried (Na2SO4) and concentrated to provide a light yellow oil. The crude material was passed through a plug of silica eluting with 50% EtOAc/hexanes to provide 24.5 g (83%) of the title compound as a light yellow oil that foamed into a white, sticky foam when placed on the high vacuum pump.

reactant | cholic acid methyl ester | 59.2 mmol, 25 g | CC(CCC(=O)OC)C1CCC2C1(C(CC3C2C(CC4C3(CCC(C4)O)C)O)O)C | C25H42O5
reactant | methanesulfonyl chloride | 65.1 mmol, 5.04 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | Methyl (3α,5β,7α,12α)-7,12-dihydroxy-3-(methanesulfonyloxy)cholan-24-oate | 24.5 g, 83% | O[C@H]1[C@H]2[C@@H]3CC[C@H]([C@@H](CCC(=O)OC)C)[C@]3([C@H](C[C@@H]2[C@]2(CC[C@H](C[C@H]2C1)OS(=O)(=O)C)C)O)C | C26H44O7S
